US08791107B2
PREPARATION x34: 2-chloro-5-((R)-1-(4-chlorophenyl)ethyl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one
To an oven dried vial were added 4-(5-bromo-2-chloropyrimidin-4-yl)-N—((R)-1-(4-chlorophenyl)ethyl)morpholine-3-carboxamide (PREPARATION x31, 574 mg, 1.247 mmol), Xantphos (54.1 mg, 0.094 mmol), potassium phosphate tribasic (265 mg, 1.247 mmol) and palladium(II)acetate (14.00 mg, 0.062 mmol) in dioxane (5 mL) and tert-butanol (1 mL). The reaction mixture was degassed for 5 minutes with N2. The vial was then sealed and heated to 105° C. and the contents were stirred for 72 hours to give a brown suspension. The reaction mixture was subsequently diluted with ethyl acetate and washed with aqueous saturated NH4Cl (3×5 mL) and brine (3×5 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo to give a crude product which was loaded onto an ISCO® silica gel cartridge (40 g) and eluted using an ethyl acetate/hexane gradient. The product was collected and concentrated in vacuo to afford the title compound as a white solid (58 mg, 12%). 1H NMR (400 MHz, DMSO-d6) δ 1.68-1.80 (m, 3H), 2.91-3.02 (m, 1H), 3.46-3.64 (m, 1H), 3.64-3.76 (m, 1H), 3.88-4.01 (m, 1H), 4.13-4.27 (m, 2H), 4.41-4.60 (m, 1H), 5.99-6.24 (m, 1H), 7.27-7.49 (m, 4H), 7.50-7.57 (m, 1H). ESI-MS m/z [M+H]+ calc'd for C17H16Cl2N4O2, 379.07. found 379.3.

reactant | 4-(5-bromo-2-chloropyrimidin-4-yl)-N—((R)-1-(4-chlorophenyl)ethyl)morpholine-3-carboxamide | 1.247 mmol, 574 mg | BrC=1C(=NC(=NC1)Cl)N1C(COCC1)C(=O)N[C@H](C)C1=CC=C(C=C1)Cl | C17H17BrCl2N4O2
reactant | Xantphos | 0.094 mmol, 54.1 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | potassium phosphate tribasic | 1.247 mmol, 265 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | tert-butanol | 1 mL | C(C)(C)(C)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium(II)acetate | 0.062 mmol, 14.00 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-chloro-5-((R)-1-(4-chlorophenyl)ethyl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one | 58 mg, 12% | ClC1=NC=2N3C(C(N(C2C=N1)[C@H](C)C1=CC=C(C=C1)Cl)=O)COCC3 | C17H16Cl2N4O2
